US05556864
A solution of 3.00 g of 3-chlorobenzaldehyde and 6.49 g of (triphenylphosphoranylidene)acetaldehyde in 100 ml of acetonitrile was heated under reflux for 5 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2.11 g (yield 59%) of 3-(3-chlorophenyl)-2-propenal as a solid.

reactant | 3-chlorobenzaldehyde | 3.00 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | (triphenylphosphoranylidene)acetaldehyde | 6.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-(3-chlorophenyl)-2-propenal | 2.11 g, yield 59% | ClC=1C=C(C=CC1)C=CC=O | C9H7ClO
